US07202221B2
7-[(2-amino-ethyl)amino]-1-ethyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
To a solution of 7-chloro-1-ethyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (1,7 g) in 1-methyl-2-pyrrolidinone (20 mL) was added ethylenediamine (2.1 g). The mixture was heated at 130° C. for 10 h. The reaction mixture was cooled and poured into DCM (20 mL). The precipitate obtained was dispersed in MeOH, filtered to give the title compound (830 mg).

reactant | 7-chloro-1-ethyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 1,7 g | ClC1=CC=C2C(C(=CN(C2=C1)CC)C(=O)O)=O | C12H10ClNO3
reactant | ethylenediamine | 2.1 g | C(CN)N | C2H8N2
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | 1-methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
solvent | MeOH | CO | CH4O
product | 7-[(2-amino-ethyl)amino]-1-ethyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 830 mg | NCCNC1=CC=C2C(C(=CN(C2=C1)CC)C(=O)O)=O | C14H17N3O3
